US06133271
Following the procedure of Example 97, the reaction of imidazole with 2-chloro-5,6,7,8-tetrahydro-4-(3-nitrobenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine gives 2-(imidazol-1-yl)-5,6,7,8-tetrahydro-4-(3-nitrobenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | 2-chloro-5,6,7,8-tetrahydro-4-(3-nitrobenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC1=C2CCCC1)NCC1=CC(=CC=C1)[N+](=O)[O-] | C17H15ClN4O2S
product | 2-(imidazol-1-yl)-5,6,7,8-tetrahydro-4-(3-nitrobenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine | N1(C=NC=C1)C=1N=C(C2=C(N1)SC1=C2CCCC1)NCC1=CC(=CC=C1)[N+](=O)[O-] | C20H18N6O2S
